US05569655
To a suspension of 1,1-carbonyldimidazole (90 g, 0.555 mol) in 400 ml of THF at 0° C. was added dropwise formic acid 25.5 g (0.555 mol) in 100 ml of THF over a 15 min period. The mixture was warmed to room temperature and stirred for 1.5 h. The resulting solution was added via canula to the anion of methyl isocyanoacetate (generated by addition of the methyl isocyanoacetate in 75 ml of THF to a suspension of potassium t-butoxide at 0° C. and stirring for 15 min) at 0° C. During the addition (exothermic), the reaction mixture reached to 20° C. and the ice-bath was removed, stirring the mixture at room temperature for 1 h. The above mixture was quenched with 100 ml of acetic acid followed by 200 ml of water, THF was removed in vacuo, and 1000 ml of chloroform was added to the residual mixture. The organic layer was washed with water (2×200 ml), saturated sodium bicarbonate solution (1×100 ml), water, brine, and dried over sodium sulfate and concentrated in vacuo. The resulting residue was chromatographed on silica (methylene chloride/hexane/ether 7:2:1) to afford 23.5 g (37%) of methyl 4-oxazolecarboxylate.

reactant | formic acid | 0.555 mol, 25.5 g | C(=O)O | CH2O2
reactant | methyl isocyanoacetate | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | methyl 4-oxazolecarboxylate | 23.5 g, 37% | O1C=NC(=C1)C(=O)OC | C5H5NO3
